US08048909B2
2′-Methylacetophenone (16.0 g) was dissolved in chloroform (50 mL) and diethyl ether (50 mL), and a solution of bromine (16.0 g) in chloroform (15 mL) was added dropwise while maintaining the reaction temperature at not higher than 25° C. After completion of the dropwise addition, the reaction mixture was stirred at room temperature for 30 min, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give crude 2-bromo-1-(2-methylphenyl)ethanone (21.4 g) as an oil. To a solution (700 mL) of methyl cyanoacetate (10.9 g) and diisopropylethylamine (31.0 g) in tetrahydrofuran was added dropwise a solution (100 mL) of crude 2-bromo-1-(2-methylphenyl)ethanone (21.4 g) obtained above in tetrahydrofuran. The reaction mixture was stirred at room temperature for 16 hr, then at 70° C. for 2 hr. The reaction mixture was filtrated, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give methyl 2-cyano-4-(2-methylphenyl)-4-oxobutanoate as an oil (yield 16.0 g). This was dissolved in ethyl acetate (16 mL), 4 mol/L hydrogen chloride-ethyl acetate solution (80 mL) was added, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with water, 6% aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give methyl 2-chloro-5-(2-methylphenyl)-1H-pyrrole-3-carboxylate as an oil (yield 2.7 g). This was dissolved in methanol (15 mL), 10% palladium carbon (50% containing water, 1.0 g) was added, and the mixture was stirred under a hydrogen atmosphere at room temperature for 18 hr. The reaction mixture was filtrated, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give the title compound as a colorless solid (yield 0.66 g, 3%).

reactant | 2′-Methylacetophenone | 16.0 g | CC1=C(C=CC=C1)C(C)=O | C9H10O
reactant | bromine | 16.0 g | BrBr | Br2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(2-methylphenyl)ethanone | 21.4 g | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
